US07442732B2
Preparation of 2,2,6,6-tetramethylpiperidin-4-ol-2-butyl-2-ethyl-1,3-propanediol-phosphite
Into a one liter, four-necked, round-bottom reaction flask was weighed 69.2 grams (0.44 mole) of 2,2,6,6-tetramethylpiperidin-4-ol, 101.2 grams (1.00 mole) of triethylamine and 250 grams of toluene. The flask was equipped with a stir shaft and paddle, temperature probe, dropping funnel, and nitrogen inlet. The reaction mixture was placed under a nitrogen blanket. Most of the 2,2,6,6-tetramethylpiperidin-4-ol was soluble in the solvents at room temperature. 2-Butyl-2-ethyl-1,3-propanediol-chlorophosphite (89.9 grams (0.40 mole)) was weighed into the dropping funnel and then slowly added to the reaction flask. White solids formed immediately. The chlorophosphite was added at a rate of addition such that the reaction temperature stayed between 18 and 22° C. Occasional cooling with an ice bath was necessary to keep the temperature under control. The total addition time was 30 minutes. The ice bath was removed and the mixture was allowed to warm slowly to room temperature. Fifty grams of additional toluene was added to rinse the dropping funnel. The white solids were waxy and difficult to stir at 18° C. After two hours, the mixture was heated to a temperature of 65° C., and stirring was continued for another hour. The mixture was then heated to 80° C. and held there for one hour to ensure the reaction is complete. The mixture was cooled to room temperature and vacuum-filtered to remove any solids. The clear filtrate was evaporated to dryness under vacuum. The product was obtained as a pale yellow liquid. (Yield: 122.8 grams) (GC Purity: 98%). The product was analyzed by 31P-NMR analysis, giving a characteristic signal with a shift of δ=125 ppm.

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | 0.44 mole, 69.2 grams | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | triethylamine | 1.00 mole, 101.2 grams | C(C)N(CC)CC | C6H15N
reactant | 2-Butyl-2-ethyl-1,3-propanediol chlorophosphite | 0.40 mole, 89.9 grams | C(CCC)C(CO)(CO)CC.P([O-])([O-])Cl
reactant | chlorophosphite | P([O-])([O-])Cl
solvent | toluene | 250 grams | C1(=CC=CC=C1)C | C7H8
product | 2,2,6,6-tetramethylpiperidin-4-ol 2-butyl-2-ethyl-1,3-propanediol phosphite | CC1(NC(CC(C1)O)(C)C)C.C(CCC)C(CO)(CO)CC.P([O-])([O-])[O-] | InChI=1S/C9H19NO.C9H20O2.O3P/c1-8(2)5-7(11)6-9(3,4)10-8;1-3-5-6-9(4-2,7-10)8-11;1-4(2)3/h7,10-11H,5-6H2,1-4H3;10-11H,3-8H2,1-2H3;/q;;-3
